Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
CT contrast
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with stage IA lung adenocarcinoma s/p left 
lower lobe nodule wedge resection via VATS ___, renal 
oncocytoma s/p left radical nephrectomy ___, and primary 
hyperparathyroidism s/p left parathyroidectomy ___ 
presenting with chest pain. Pt reports one week of chest pain, 
located in the midepigastrium and radiating to her back. Pain is 
worse with certain positions and with deep inspiration and pt 
reports having to lie on several pillows at night for comfort. 
Describes pain as a stabbing pain, varying in intensity from 
___. Not associated with activity level, SOB, po intake, 
N/V, or changes in BMs. Denies fevers or cough. She awoke at 4am 
on day of admission with this pain, prompting her husband to 
bring her to the ED.  
.  
In ED VS were BP 106/73 HR 80 RR 20 95% RA. EKG was unchanged 
from prior; cardiac enzymes negative x 2. She received morphine 
which relieved the discomfort only minimally. Also received 
ceftriaxone and azithromycin for possible PNA seen on CXR. 
Bedside TTE was performed with concern for RV collapse; however, 
formal TTE by cardiology fellow was unremarkable. RUQ ultrasound 
was also unremarkable. V/Q scan did not show PE. Of note, pt has 
significant IV contrast allergy (stiffness in the extremities).  

.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denies tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
Stage IA lung adenocarcinoma s/p left lower lobe nodule wedge 
resection via VATS ___  
Renal oncocytoma s/p left radical nephrectomy ___  
Primary hyperparathyroidism s/p left parathyroidectomy ___  
HTN  
HL  
Short term memory loss  

 
Social History:
___
Family History:
Father: Lung cancer  
Sister: ___ cancer  
Sister: ___ cancer  

 
Physical Exam:
On admission:
VS: 96.3 145/82 71 18 97%RA  
GA: AOx2 (does not know date, which she states is baseline), 
appears in mild distress from chest/back discomfort  
HEENT: PERRL. MMM. EOMI. no LAD. no JVD. neck supple.  
Cards: PMI palpable at ___ IC space. No RVH. RRR S1/S2 heard. 
no murmurs/gallops/rubs.  
Pulm: limited due to pain on deep inspiration, grossly CTAB, no 
crackles or wheezes  
Abd: soft, NT, +BS. no g/rt. neg HSM. neg ___ sign.  
Extremities: wwp, no edema. DPs, PTs 2+.  
Skin: no rash or suspicious lesions  
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities. 
gait WNL.  

On discharge:
VS: Tc 96 Tmax 97.4 BP 122/74 (122-145/74-82) HR 66 (66-76) RR 
18 O2 sat 94%RA  
GA: AOx2 (does not know date, which she states is baseline), NAD
HEENT: PERRL. MMM. EOMI. no LAD. no JVD. neck supple.  
Cards: PMI palpable at ___ IC space. No RVH. RRR S1/S2 heard. 
no murmurs/gallops/rubs.  
Pulm: limited due to pain on deep inspiration, grossly CTAB, no 
crackles or wheezes  
Abd: soft, NT, +BS. no g/rt. neg HSM. neg ___ sign.  
Extremities: wwp, no edema. DPs, PTs 2+.  
Skin: no rash or suspicious lesions  
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities. 
gait WNL.  

 
Pertinent Results:
On admission:
___ 07:55AM BLOOD WBC-9.0 RBC-4.50 Hgb-12.9 Hct-39.5 MCV-88 
MCH-28.6 MCHC-32.6 RDW-14.3 Plt ___
___ 07:55AM BLOOD Neuts-61.2 ___ Monos-4.4 Eos-2.1 
Baso-1.3
___ 07:55AM BLOOD ___ PTT-20.3* ___
___ 07:55AM BLOOD Glucose-122* UreaN-50* Creat-1.5* Na-138 
K-4.7 Cl-106 HCO3-17* AnGap-20
___ 07:55AM BLOOD ALT-39 AST-28 AlkPhos-119* Amylase-73 
TotBili-0.2
___ 07:55AM BLOOD Lipase-98*
___ 07:55AM BLOOD cTropnT-<0.01
___ 07:55AM BLOOD Albumin-5.0 Calcium-10.9* Phos-3.8 Mg-2.5
___ 07:55AM BLOOD Triglyc-483*
___ 03:09PM BLOOD Lactate-1.4
___ 02:45PM URINE Color-Straw Appear-Clear Sp ___
___ 02:45PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-SM 
___ 02:45PM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-2 
TransE-<1

On discharge:
___ 07:35AM BLOOD WBC-6.5 RBC-4.13* Hgb-12.0 Hct-36.9 
MCV-89 MCH-29.1 MCHC-32.6 RDW-14.3 Plt ___
___ 07:35AM BLOOD Glucose-101* UreaN-41* Creat-1.2* Na-139 
K-5.2* Cl-108 HCO3-19* AnGap-17
___ 07:35AM BLOOD Lipase-85*
___ 07:35AM BLOOD Calcium-10.6* Phos-3.9 Mg-2.3

Micro:
___ 2:45 pm Blood Culture, Routine (Pending): 
___ 7:55 am Blood Culture, Routine (Pending): 

TTE ___:
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.   

ECG ___:
Sinus rhythm. Consider left atrial abnormality. Consider left 
ventricular hypertrophy, although is non-diagnostic. Lateral 
lead ST-T wave abnormalities ___ be due to left ventricular 
hypertrophy or possible myocardial ischemia. Clinical 
correlation is suggested. Since the previous tracing of ___ 
no significant change. 

V/Q scan ___:
INTERPRETATION: 
Ventilation images obtained with Tc-99m aerosol in 8 views 
demonstrate no ventilation defects. 
  
Perfusion images in the same 8 views show a subsegmental defect 
in the left superoposterior lung, overlying the posterior 
segment of the left upper lobe, only seen in one view, and 
without corresponding defect on the ventilation scan and no 
pathololgy on CXR and therefore likely artifactual. 
  
Chest x-ray shows bibasilar atelectasis. 
  
IMPRESSION: 
Low likelihood of acute PE. 

Chest (PA & LAT) ___:
FINDINGS: There are decreased lung volumes bilaterally. There 
appears to be minimal bibasilar atelectasis. The left and right 
lung are otherwise clear. No pleural effusion. The hilar, 
mediastinal, and cardiac silhouette appear unremarkable.  
  
IMPRESSION: Minimal bibasilar atelectasis. No definite sign of 
pneumonia. 

RUQ ultrasound ___:
FINDINGS: There is an echogenic appearance of the liver 
consistent with fatty infiltration with regions of fatty sparing 
noted. Previously seen hypodensity is again demonstrated in the 
right lobe of the liver with posterior through transmission 
compatible with simple hepatic cyst. There is a shadowing 
gallstone within the GB and no US evidence to suggest acute 
cholecystitis.  Common bile duct is not dilated. Spleen is not 
enlarged. There is no right sided hydronephrosis. No ascites. 
  
IMPRESSION:  
1. Echogenic liver consistent with fatty infiltration. Other 
forms of liver disease and more advanced liver disease including 
significant hepatic fibrosis/cirrhosis cannot be excluded on 
this study. 
2. Simple hepatic cyst. 
3. Gallstone seen within otherwise normal gallbladder.  

CT chest w/o contrast ___:
FINDINGS: Punctate calcifications at the level of the left 
thyroid. No supraclavicular, infraclavicular, or axillary 
lymphadenopathy. No mediastinal or hilar lymphadenopathy. 
Mild-to-moderate coronary calcifications. No cardiac 
enlargement. No pericardial effusion, no pleural effusion. Fatty 
liver. Status post left nephrectomy . The right kidney is not 
visualized.  No evidence of adrenal lesions. No 
osteo-destructive lesions. 
  
Unchanged minimal apical scarring. 
  
Staple line in the left upper lobe, unchanged morphology. 
  
The part solid and part non-solid nodule in the left upper lobe 
(4, 80) is unchanged in size and morphology. The size of the 
solid component has not increased. Several other pulmonary 
nodules, for example in the left lower lobe (4, 139) are also 
all unchanged in size and morphology. The areas of scarring at 
the lingula are stable. At the bases of both lower lobes, areas 
of plate-like atelectasis have appeared in the dependent lung 
regions. These could represent areas of this atelectasis, but 
older pneumonia cannot be excluded. 
  
The airways are patent but subtle cylindrical bronchiectasis are 
seen in the mid lobe. 
  
IMPRESSION: Unchanged post-surgical appearance as compared to 
___, regarding the pre-existing pulmonary nodules 
in the site of resection in the left upper lobe. 
  
Newly appeared areas of plate-like atelectasis at the left and 
right lung bases. Presence of coexisting older pneumonia cannot 
be excluded. 
  
No newly appeared lung nodules. 
  
Status post left nephrectomy and adrenalectomy. 
  
Fatty infiltration of the liver. 
  
Despite their stability since ___, the nodule in the left 
upper lobe requires CT followup in six months, given the 
relatively high statistical probability for malignancy. 

 
Brief Hospital Course:
___ year old female with stage IA lung adenocarcinoma s/p left 
lower lobe nodule wedge resection via VATS ___, renal 
oncocytoma s/p left radical nephrectomy ___, and primary 
hyperparathyroidism s/p left parathyroidectomy ___ 
presenting with chest pain.  
.  
#Chest pain: Pt reported one week of chest pain worse with deep 
inspiration and relieved with positional changes consistent with 
pleuritic chest pain. History and exam was otherwise 
unremarkable; she did not endorse fevers, cough, hemoptysis. 
Oxygen saturation was mid ___ on room air; she was not 
tachycardic or tachypneic. Blood pressure was equal in both 
arms, arguing against aortic dissection. Overlying skin did not 
show evidence of zoster.  EKG was unremarkable and cardiac 
enzymes negative x 3 sets.  CXR was unremarkable.  V/Q scan 
showed low likelihood of PE.  TTE showed EF >55%, no significant 
valvular disease, and no pericardial effusion. RUQ ultrasound 
showed echogenic liver consistent with fatty infiltration, 
simple hepatic cyst, and a gallstone in an otherwise normal 
gallbladder.  Lipase was initially elevated to 98 but 
downtrended to 85; pt did not have N/V to suggest pancreatitis.  
Pt did have history of lung adenocarcinoma with serial CT chest 
scans for monitoring; repeat noncontrast CT chest was performed 
which was largely stable. Pain was stable by time of discharge, 
likely musculoskeletal vs viral pleurisy given negative work-up. 
 She did not require any pain medications.  
.  
#Hypercalcemia: Pt with mildly elevated calcium level of 10.6 to 
10.9 despite recent parathyroidectomy. Albumin was normal. Total 
protein was wnl at 7.2.  She should continue to have her calcium 
levels followed by her PCP. 
.    
#Chronic kidney disease: Pt with baseline Cr 1.2 to 1.4. Cr 
remained within baseline range throughout hospital admission.  
Her lasix was held as pt appeared euvolemic and could not recall 
the reason she was taking this medication.  TTE showed EF > 55% 
and was otherwise unremarkable.  
.  
#Stage IA lung adenocarcinoma: Pt with stage IA lung 
adenocarcinoma s/p VATS ___. Last CT chest ___ showing 
unchanged appearance of mixed attentuation left upper lobe lung 
nodule (previously shown growth) and two year stability small 
solid nodules. Pt was scheduled for follow-up CT chest in 
___.  However, given her pleuritic chest pain, CT chest was 
obtained during this admission.  This revealed newly appeared 
areas of plate-like atelectasis, no new lung nodules, and stable 
nodule in left upper lobe.  She will need a follow-up CT in 6 
months. 
.  
#Renal oncocytoma: No acute issues.  Last CT abdomen ___ 
showed no evidence of local recurrence of renal oncocytoma. 
.  
#Short term memory loss: Pt with short term memory loss, at 
baseline per husband. She was A & O x 2 which pt reports is 
baseline (did not recall date). Per family, has had workup for 
Alzheimer's that has been negative.  She had an episode of 
confusion during her first night in the hospital, not recalling 
that she was in the hospital.  Confusion resolved after 
reorienting. 
.
#Non-gap Metabolic Acidosis:  Pt presented with bicarb level of 
17 without an anion gap.  This improved to 19 prior to discharge 
without any other electrolyte abnormalities.  She should have 
her electrolytes checked on her next PCP ___.  
 
Medications on Admission:
-atenolol 25mg daily  
-Klor-Con 10meQ daily  
-furosemide 20mg daily  
-aspirin 81mg daily  
-famotidine 20mg daily  
-MVI daily  
-buproprion 100mg BID  
-gemfibrozil 600mg BID  
-omeprazole 20mg daily 
 
Discharge Medications:
1. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. famotidine 20 mg Tablet Sig: One (1) Tablet PO Q24H (every 24 
hours).  
4. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
6. bupropion HCl 100 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
7. omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO at bedtime.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Pleuritic chest pain

Secondary:
Stage IA lung adenocarcinoma
Renal oncocytoma 
Short-term memory loss 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you in the hospital.  You were 
admitted with chest pain.  Your EKG and blood tests did not show 
that you were having a heart attack.  Other imaging tests, 
including an echocardiogram of your heart, a chest x-ray, an 
abdominal ultrasound, and a lung perfusion study (to look for 
blood clots in the lungs) were all unremarkable. The abdominal 
ultrasound showed you have a gallstone but this did not look 
like it was causing infection. A noncontrast CT chest was 
largely stable from your previous scans.  

The following changes were made to your medications:
1) STOP lasix.  Please discuss whether you should be on this 
medication with your primary care doctor. 
2) STOP Klor-Con.  You doctor should check your lab work and 
will decide if you need to continue this medication
3) You are taking famotidine and omeprazole; these two 
medications have the same effect to prevent heartburn.  Please 
discuss with your primary care provider discontinuing one of 
them.  
 
Followup Instructions:
___